US04876350
Production of (3aS,6aR)-1[(R)-(1-phenylethyl)]-3-tert-butoxycarbonyl-dihydro-1H-furo[3,4-d]imidazol-2,4-(3H,3aH)-dione
3.83 g (88 mmol) of sodium hydride (55 percent in oil) was added in 10 portions in 2 hours at -10° C. under argon to a solution of 20.0 g (81 mmol) of (3aS,6aR)-1[(R)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]-imidazol-2,4(3H,3aH)-dione and 21.3 g (97 mmol) of di-tert-butyldicarbonate in 200 ml of dried N,N-dimethylformamide. The reaction mixture was stirred at 5° C. for 2 hours and then at room temperature for another 2 hours. Then 1 ml of acetic acid was added. Then the mixture was evaporated to dryness. The residue was taken up in 50 ml of water and 100 ml of dichloromethane, the phases were separated and the aqueous phase was extracted twice with 100 ml of dichloromethane. The organic phases were dried on magnesium sulfate and concentrated. After suspension in ethanol under fluxing, cooling and filtering, 25.8 g (92 percent) of the title product was obtained in the form of white needles. Concerning the product:

reactant | sodium hydride | 88 mmol, 3.83 g | [H-].[Na+]
reactant | (3aS,6aR)-1[(R)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]-imidazol-2,4(3H,3aH)-dione | 81 mmol, 20.0 g | C1(=CC=CC=C1)[C@@H](C)N1C(N[C@H]2[C@@H]1COC2=O)=O | C13H14N2O3
reactant | di-tert-butyldicarbonate | 97 mmol, 21.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | (3aS,6aR)-1[(R)-(1-phenylethyl)]-3-tert-butoxycarbonyl-dihydro-1H-furo[3,4-d]imidazol-2,4-(3H,3aH)-dione | 25.8 g, 92 percent | C1(=CC=CC=C1)[C@@H](C)N1C(N([C@H]2[C@@H]1COC2=O)C(=O)OC(C)(C)C)=O | C18H22N2O5
